US07432291B2
i) 2-[2-(4-Allyloxy-benzyloxy)-ethyl]2H-[1,2,3]triazole
207 mg (8.21 mmol) 95% Sodium hydride were given at −50° C. to a solution of 1.00 g (5.47 mmol) 1-allyloxy-4-chloromethyl-benzene and 619 mg (5.47 mmol) 2-(2H-[1,2,3]-triazol-2-yl)-ethanol in 10.0 ml DMF. The mixture was allowed to warm slowly to r.t., stirred overnight and 6 ml water added. The formed oil was collected with 10 ml dichloromethane, the aqueous phase extracted with 10 ml dichloromethane and the combined organic phases dried over Na2SO4.

reactant | Sodium hydride | 8.21 mmol, 207 mg | [H-].[Na+]
reactant | 1-allyloxy-4-chloromethyl-benzene | 5.47 mmol, 1.00 g | C(C=C)OC1=CC=C(C=C1)CCl | C10H11ClO
reactant | 2-(2H-[1,2,3]-triazol-2-yl)-ethanol | 5.47 mmol, 619 mg | N=1N(N=CC1)CCO | C4H7N3O
reactant | water | 6 ml | O | H2O
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 2-[2-(4-Allyloxy-benzyloxy)-ethyl]2H-[1,2,3]triazole | C(C=C)OC1=CC=C(COCCN2N=CC=N2)C=C1 | C14H17N3O2
